US08802670B2
A solution of (3-acetamido-2-nitrophenyl)boronic acid (300 mg) in 2M aqueous hydrochloric acid solution (4 mL) was heated at 80° C. for 20 min. After cooling to room temperature, the solvent was reduced in vacuo to give a brown solid which was redissolved in 1,4-dioxane (5 mL). Pinacol (316 mg) was added and the mixture heated at 100° C. for 30 min. After cooling to room temperature the solvent was reduced in vacuo to give a beige solid which was dissolved in acetic acid (5 mL). Palladium on carbon (100 mg) was added and the mixture stirred under an atmosphere of hydrogen at 40° C. for 1 h. The reaction mixture was then filtered through Celite and the filtrate reduced in vacuo. Purification by column chromatography gave 2-amino-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline.

reactant | (3-acetamido-2-nitrophenyl)boronic acid | 300 mg | C(C)(=O)NC=1C(=C(C=CC1)B(O)O)[N+](=O)[O-] | C8H9BN2O5
reactant | Pinacol | 316 mg | OC(C)(C)C(C)(C)O | C6H14O2
solvent | hydrochloric acid | 2M, 4 mL | Cl | ClH
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
catalyst | Palladium on carbon | 100 mg | [Pd] | Pd
product | 2-amino-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | NC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C12H19BN2O2
